US07495007B2
Preparation of racemic (2′R,3R,4′S)-4′-(2-acetylamino-5-chloro-phenyl)-6-chloro-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′R,3R,4′S)-4′-(2-amino-5-chloro-phenyl)-6-chloro-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (40 mg, 0.1 mmol), acetic acid (9 mg, 0.15 mmol), EDCI.HCl (29 mg, 0.15 mmol), and HOBt (20 mg, 0.15 mmol) in acetonitrile (5 mL) was added DIPEA (0.052 mL, 0.3 mmol) at r.t. The reaction mixture was stirred for 4 h. The mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layers were dried over MgSO4 and concentrated. The residue was purified with Prep HPLC to give the title compound as a white solid (Yield: 9 mg).

reactant | racemic (2′R,3R,4′S)-4′-(2-amino-5-chloro-phenyl)-6-chloro-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.1 mmol, 40 mg | NC1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C(=C)C)C(NC1=CC(=CC=C12)Cl)=O | C21H19Cl2N3O2
reactant | acetic acid | 0.15 mmol, 9 mg | C(C)(=O)O | C2H4O2
reactant | EDCI.HCl | 0.15 mmol, 29 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.15 mmol, 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.3 mmol, 0.052 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | racemic (2′R,3R,4′S)-4′-(2-acetylamino-5-chloro-phenyl)-6-chloro-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 9 mg | C(C)(=O)NC1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C(=C)C)C(NC1=CC(=CC=C12)Cl)=O | C23H21Cl2N3O3
